US08536197B2
(98a) Ethyl trans(±)-2-[(2-amino-2,3-dihydro-1H-inden-5-yl)carbamoyl]cyclopropanecarboxylate
The same operation as in Example (93a) was performed using tert-butyl 5-amino-1,3-dihydro-2H-inden-2-carboxylate (described in Andronati, S. A.; Krys'ko, A. A.; Chugunov, B. M.; Kabanova, T. A.; Artemenko, A. G.; Russ. J. Org. Chem.; 42; 8; 2006; 1174-1182, 0.19 g, 0.77 mmol), trans-2-(ethoxycarbonyl)cyclopropanecarboxylic acid (described in Wessjohann, Ludger A.; Fulhorst, Michael; Zakharova, Svetlana; Pol. J. Chem.; 80; 4; 2006; 673-678, 182 mg, 1.15 mmol), WSC hydrochloride (0.29 g, 1.5 mmol), DMAP (10 mg) and dichloromethane (20 mL). Purification by silica gel column chromatography (elution solvent: hexane/ethyl acetate=4/1, 2/1, 1/1, 1/2) gave 0.24 g of the title compound as a colorless solid (81%).

reactant | tert-butyl 5-amino-1,3-dihydro-2H-inden-2-carboxylate | NC=1C=C2CC(CC2=CC1)C(=O)OC(C)(C)C | C14H19NO2
reactant | trans-2-(ethoxycarbonyl)cyclopropanecarboxylic acid | 1.15 mmol, 182 mg | C(C)OC(=O)[C@H]1[C@@H](C1)C(=O)O | C7H10O4
reactant | WSC hydrochloride | 1.5 mmol, 0.29 g | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Ethyl trans(±)-2-[(2-amino-2,3-dihydro-1H-inden-5-yl)carbamoyl]cyclopropanecarboxylate | 0.24 g, 81% | NC1CC2=CC=C(C=C2C1)NC(=O)[C@H]1[C@@H](C1)C(=O)OCC | C16H20N2O3
